US09169254B2
3-Methyl-4-[2-(4-oxo-piperidine-1-sulfonyl)-ethyl]-benzoic acid (1.23 g, 3.78 mmol) was suspended in toluene (20.0 ml). Di-tert-butoxymethyl-dimethyl-amine (3.63 ml, 15.12 mmol) was added and the mixture was stirred at 80° C. for 30 minutes. Thereafter, di-tert-butoxymethyl-dimethyl-amine (2.70 ml, 11.34 mmol) was added again and the mixture was stirred at 80° C. for 30 minutes. After completion of the reaction, the reaction solution was left to cool and diluted with ethyl acetate. The organic layer was then washed with an aqueous sodium bicarbonate solution and saline. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by column chromatography (hexane:ethyl acetate) to give 3-methyl-4-[2-(4-oxo-piperidine-1-sulfonyl)-ethyl]-benzoic acid tert-butyl ester as a white solid (1.01 g, 70.0%).

reactant | 3-Methyl-4-[2-(4-oxo-piperidine-1-sulfonyl)-ethyl]-benzoic acid | 3.78 mmol, 1.23 g | CC=1C=C(C(=O)O)C=CC1CCS(=O)(=O)N1CCC(CC1)=O | C15H19NO5S
reactant | Di-tert-butoxymethyl-dimethyl-amine | 15.12 mmol, 3.63 ml | C(C)(C)(C)OC(OC(C)(C)C)N(C)C | C11H25NO2
reactant | di-tert-butoxymethyl-dimethyl-amine | 11.34 mmol, 2.70 ml | C(C)(C)(C)OC(OC(C)(C)C)N(C)C | C11H25NO2
solvent | toluene | 20.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-methyl-4-[2-(4-oxo-piperidine-1-sulfonyl)-ethyl]-benzoic acid tert-butyl ester | 1.01 g, 70.0% | C(C)(C)(C)OC(C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC(CC1)=O)C)=O | C19H27NO5S
